* Created by KLayout
*** My special header ***

* cell tr_1um_OpenSUSI05
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P4
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_OpenSUSI05 P1 P10 P11 P12 P13 P14 P15 P2 P4 P4$1 P5 P6 P7 P9 VDD
+ VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P4$1 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $3 m0 *1 0,150.4
X$3 P13 \$22 P4 \$21 P2 VSS opamp_3zki_ina_first
* cell instance $6 r0 *1 0,432.7
X$6 \$36 P15 \$42 \$21 P2 VSS opamp_3zki_ina_out
* cell instance $7 r0 *1 0,646.3
X$7 P14 \$57 P4$1 \$21 P2 VSS opamp_3zki_ina_first
* device instance $10 r0 *1 247,294.9 F_RS
XR$10 P13 P15 F_RS R=20 L=1055u W=4u A=320p P=168u m=1
* device instance $19 m135 *1 -548.45,695.4 F_RS
XR$19 P1 P14 F_RS R=20 L=1055u W=4u A=320p P=168u m=1
.ENDS tr_1um_OpenSUSI05

* cell opamp_3zki_ina_out
* pin INM
* pin OUT
* pin INP
* pin VDD
* pin VB
* pin VSS
.SUBCKT opamp_3zki_ina_out INM OUT INP VDD VB VSS
* cell instance $1 r0 *1 -273.6,0
X$1 \$1 \$6 \$10 \$20 \$24 \$27 VDD VB VSS opamp_3zki_R06_2V5_3
* cell instance $2 r0 *1 0.4,0
X$2 \$3 \$1 \$4 \$10 \$7 \$17 VDD \$2 \$5 \$20 \$24 VSS
+ opamp_3zki_R06_2V5_4_half
* cell instance $3 r0 *1 -42,0
X$3 \$2 \$6 \$5 \$10 INP INM VDD \$27 \$20 \$4 \$3 VSS opamp_3zki_R06_2V5_1_half
* cell instance $4 r0 *1 639.7,0
X$4 \$4 \$7 OUT VDD \$17 \$5 VSS opamp_3zki_ina_out_2_half
.ENDS opamp_3zki_ina_out

* cell opamp_3zki_ina_first
* pin INM
* pin OUT
* pin INP
* pin VDD
* pin VB
* pin VSS
.SUBCKT opamp_3zki_ina_first INM OUT INP VDD VB VSS
* cell instance $1 r0 *1 0.4,0
X$1 \$3 \$1 \$4 \$10 \$7 \$17 VDD \$2 \$5 \$20 \$24 VSS
+ opamp_3zki_R06_2V5_4_half
* cell instance $2 r0 *1 -273.6,0
X$2 \$1 \$6 \$10 \$20 \$24 \$27 VDD VB VSS opamp_3zki_R06_2V5_3
* cell instance $3 r0 *1 -42,0
X$3 \$2 \$6 \$5 \$10 INP INM VDD \$27 \$20 \$4 \$3 VSS opamp_3zki_R06_2V5_1_half
* cell instance $4 r0 *1 613.7,0
X$4 \$4 \$7 OUT VDD \$17 \$5 VSS opamp_3zki_ina_first_2_half
.ENDS opamp_3zki_ina_first

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell opamp_3zki_ina_out_2_half
* pin CN_PP3
* pin OUTN
* pin OUT
* pin VDD
* pin OUTP
* pin CP_PN3
* pin VSS
.SUBCKT opamp_3zki_ina_out_2_half CN_PP3 OUTN OUT VDD OUTP CP_PN3 VSS
* device instance $1 r0 *1 -76,-7.4 PMOS
XM$1 VDD OUTP OUT VDD PMOS L=5u W=560u AS=876.4p AD=876.4p PS=650.6u PD=650.6u
* device instance $21 r0 *1 -76,-67.2 NMOS
XM$21 VSS OUTN OUT VSS NMOS L=5u W=192u AS=300.48p AD=300.48p PS=264.2u
+ PD=264.2u
* device instance $41 r0 *1 -277.55,-32.7 F_CSIO
XC$41 CN_PP3 OUT VSS F_CSIO C=2.048058e-12 A=3413.43p P=252.8u X=39.1 Y=87.3 m=2
* device instance $43 r0 *1 -132.65,-32.7 F_CSIO
XC$43 CP_PN3 OUT VSS F_CSIO C=2.048058e-12 A=3413.43p P=252.8u X=39.1 Y=87.3 m=2
.ENDS opamp_3zki_ina_out_2_half

* cell opamp_3zki_R06_2V5_4_half
* pin MP3
* pin BNF
* pin CN_PP3
* pin BNI
* pin OUTN
* pin OUTP
* pin VDD
* pin MN3
* pin CP_PN3
* pin BPI
* pin BPF
* pin VSS
.SUBCKT opamp_3zki_R06_2V5_4_half MP3 BNF CN_PP3 BNI OUTN OUTP VDD MN3 CP_PN3
+ BPI BPF VSS
* device instance $1 r0 *1 46.3,0 PMOS
XM$1 VDD \$34 MN3 VDD PMOS L=5u W=105.6u AS=192.72p AD=158.4p PS=161.2u
+ PD=129.6u
* device instance $4 r0 *1 70.3,0 PMOS
XM$4 MN3 BPI \$34 VDD PMOS L=5u W=52.8u AS=79.2p AD=79.2p PS=64.8u PD=64.8u
* device instance $5 r0 *1 78.3,0 PMOS
XM$5 \$34 BPF \$8 VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $6 r0 *1 86.3,0 PMOS
XM$6 \$8 VDD \$34 VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $9 r0 *1 110.3,0 PMOS
XM$9 VDD \$34 CP_PN3 VDD PMOS L=5u W=105.6u AS=158.4p AD=192.72p PS=129.6u
+ PD=161.2u
* device instance $10 r0 *1 118.3,0 PMOS
XM$10 CP_PN3 BPI OUTP VDD PMOS L=5u W=52.8u AS=79.2p AD=79.2p PS=64.8u PD=64.8u
* device instance $11 r0 *1 126.3,0 PMOS
XM$11 OUTP VDD OUTN VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $12 r0 *1 134.3,0 PMOS
XM$12 OUTN BPF OUTP VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $33 r0 *1 46.3,-69.6 NMOS
XM$33 VSS \$8 MP3 VSS NMOS L=5u W=38.4u AS=70.08p AD=57.6p PS=77.2u PD=62.4u
* device instance $36 r0 *1 70.3,-69.6 NMOS
XM$36 MP3 BNI \$8 VSS NMOS L=5u W=19.2u AS=28.8p AD=28.8p PS=31.2u PD=31.2u
* device instance $37 r0 *1 78.3,-69.6 NMOS
XM$37 \$8 BNF \$34 VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $38 r0 *1 86.3,-69.6 NMOS
XM$38 \$34 VSS \$8 VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $41 r0 *1 110.3,-69.6 NMOS
XM$41 VSS \$8 CN_PP3 VSS NMOS L=5u W=38.4u AS=57.6p AD=70.08p PS=62.4u PD=77.2u
* device instance $42 r0 *1 118.3,-69.6 NMOS
XM$42 CN_PP3 BNI OUTN VSS NMOS L=5u W=19.2u AS=28.8p AD=28.8p PS=31.2u PD=31.2u
* device instance $43 r0 *1 126.3,-69.6 NMOS
XM$43 OUTN VSS OUTP VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $44 r0 *1 134.3,-69.6 NMOS
XM$44 OUTP BNF OUTN VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
.ENDS opamp_3zki_R06_2V5_4_half

* cell opamp_3zki_ina_first_2_half
* pin CN_PP3
* pin OUTN
* pin OUT
* pin VDD
* pin OUTP
* pin CP_PN3
* pin VSS
.SUBCKT opamp_3zki_ina_first_2_half CN_PP3 OUTN OUT VDD OUTP CP_PN3 VSS
* device instance $1 r0 *1 -76,-7.4 PMOS
XM$1 VDD OUTP OUT VDD PMOS L=5u W=560u AS=876.4p AD=876.4p PS=650.6u PD=650.6u
* device instance $21 r0 *1 -76,-67.2 NMOS
XM$21 VSS OUTN OUT VSS NMOS L=5u W=192u AS=300.48p AD=300.48p PS=264.2u
+ PD=264.2u
* device instance $41 r0 *1 -254.8,-32.7 F_CSIO
XC$41 CN_PP3 OUT VSS F_CSIO C=1.707588e-12 A=2845.98p P=239.8u X=32.6 Y=87.3 m=2
* device instance $43 r0 *1 -129.4,-32.7 F_CSIO
XC$43 CP_PN3 OUT VSS F_CSIO C=1.707588e-12 A=2845.98p P=239.8u X=32.6 Y=87.3 m=2
.ENDS opamp_3zki_ina_first_2_half

* cell opamp_3zki_R06_2V5_3
* pin BNF
* pin BNO
* pin BNI
* pin BPI
* pin BPF
* pin BPO
* pin VDD
* pin VB
* pin VSS
.SUBCKT opamp_3zki_R06_2V5_3 BNF BNO BNI BPI BPF BPO VDD VB VSS
* device instance $1 r0 *1 -212,0 PMOS
XM$1 VDD VDD VDD VDD PMOS L=5u W=105.6u AS=175.56p AD=158.4p PS=145.4u PD=129.6u
* device instance $2 r0 *1 -204,0 PMOS
XM$2 VDD VB BNI VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $7 r0 *1 -164,0 PMOS
XM$7 VDD VB BNO VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $11 r0 *1 -132,0 PMOS
XM$11 VDD VDD BPI VDD PMOS L=5u W=13.2u AS=19.8p AD=19.8p PS=16.2u PD=16.2u
* device instance $12 r0 *1 -124,0 PMOS
XM$12 BPI BPI \$208 VDD PMOS L=5u W=13.2u AS=19.8p AD=19.8p PS=16.2u PD=16.2u
* device instance $13 r0 *1 -116,0 PMOS
XM$13 \$208 BPI \$213 VDD PMOS L=5u W=13.2u AS=19.8p AD=19.8p PS=16.2u PD=16.2u
* device instance $14 r0 *1 -108,0 PMOS
XM$14 \$213 BPI VDD VDD PMOS L=5u W=13.2u AS=19.8p AD=19.8p PS=16.2u PD=16.2u
* device instance $15 r0 *1 -100,0 PMOS
XM$15 VDD BPO \$102 VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $16 r0 *1 -92,0 PMOS
XM$16 \$102 BPI BPO VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $20 r0 *1 -60,0 PMOS
XM$20 VDD BPO \$104 VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $21 r0 *1 -52,0 PMOS
XM$21 \$104 BPI BNF VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $25 r0 *1 -20,0 PMOS
XM$25 VDD \$105 \$140 VDD PMOS L=5u W=26.4u AS=39.6p AD=56.76p PS=32.4u PD=48.2u
* device instance $26 r0 *1 -12,0 PMOS
XM$26 \$140 BPI \$105 VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $27 r0 *1 -4,0 PMOS
XM$27 \$105 BPF BPF VDD PMOS L=5u W=26.4u AS=39.6p AD=39.6p PS=32.4u PD=32.4u
* device instance $31 r0 *1 -212,-69.6 NMOS
XM$31 VSS VSS VSS VSS NMOS L=5u W=19.2u AS=35.04p AD=35.04p PS=38.6u PD=38.6u
* device instance $32 r0 *1 -204,-69.6 NMOS
XM$32 VSS VSS BNI VSS NMOS L=5u W=4.8u AS=7.2p AD=7.2p PS=7.8u PD=7.8u
* device instance $33 r0 *1 -196,-69.6 NMOS
XM$33 BNI BNI \$28 VSS NMOS L=5u W=4.8u AS=7.2p AD=7.2p PS=7.8u PD=7.8u
* device instance $34 r0 *1 -188,-69.6 NMOS
XM$34 \$28 BNI \$33 VSS NMOS L=5u W=4.8u AS=7.2p AD=7.2p PS=7.8u PD=7.8u
* device instance $35 r0 *1 -180,-69.6 NMOS
XM$35 \$33 BNI VSS VSS NMOS L=5u W=4.8u AS=7.2p AD=7.2p PS=7.8u PD=7.8u
* device instance $36 r0 *1 -172,-69.6 NMOS
XM$36 VSS BNO \$5 VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $37 r0 *1 -164,-69.6 NMOS
XM$37 \$5 BNI BNO VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $40 r0 *1 -140,-69.6 NMOS
XM$40 VSS BNO \$6 VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $41 r0 *1 -132,-69.6 NMOS
XM$41 \$6 BNI BPI VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $45 r0 *1 -100,-69.6 NMOS
XM$45 VSS BNO \$8 VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $46 r0 *1 -92,-69.6 NMOS
XM$46 \$8 BNI BPO VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $49 r0 *1 -68,-69.6 NMOS
XM$49 VSS \$57 \$9 VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $50 r0 *1 -60,-69.6 NMOS
XM$50 \$9 BNI \$57 VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $51 r0 *1 -52,-69.6 NMOS
XM$51 \$57 BNF BNF VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $56 r0 *1 -12,-69.6 NMOS
XM$56 VSS BNO \$10 VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
* device instance $57 r0 *1 -4,-69.6 NMOS
XM$57 \$10 BNI BPF VSS NMOS L=5u W=9.6u AS=14.4p AD=14.4p PS=15.6u PD=15.6u
.ENDS opamp_3zki_R06_2V5_3

* cell opamp_3zki_R06_2V5_1_half
* pin MN3
* pin BNO
* pin CP_PN3
* pin BNI
* pin INP
* pin INM
* pin VDD
* pin BPO
* pin BPI
* pin CN_PP3
* pin MP3
* pin VSS
.SUBCKT opamp_3zki_R06_2V5_1_half MN3 BNO CP_PN3 BNI INP INM VDD BPO BPI CN_PP3
+ MP3 VSS
* device instance $1 r0 *1 -75.2,0 PMOS
XM$1 VDD BPO \$87 VDD PMOS L=5u W=105.6u AS=227.04p AD=227.04p PS=192.8u
+ PD=192.8u
* device instance $2 r0 *1 -67.2,0 PMOS
XM$2 \$87 BPI \$85 VDD PMOS L=5u W=105.6u AS=158.4p AD=158.4p PS=129.6u
+ PD=129.6u
* device instance $3 r0 *1 -59.2,0 PMOS
XM$3 \$85 INP CN_PP3 VDD PMOS L=5u W=52.8u AS=79.2p AD=79.2p PS=64.8u PD=64.8u
* device instance $15 m90 *1 -110,0 PMOS
XM$15 \$85 INM MP3 VDD PMOS L=5u W=52.8u AS=79.2p AD=79.2p PS=64.8u PD=64.8u
* device instance $25 m90 *1 23.6,-69.6 NMOS
XM$25 VSS BNO \$7 VSS NMOS L=5u W=38.4u AS=82.56p AD=82.56p PS=92u PD=92u
* device instance $26 m90 *1 15.6,-69.6 NMOS
XM$26 \$7 BNI \$6 VSS NMOS L=5u W=38.4u AS=57.6p AD=57.6p PS=62.4u PD=62.4u
* device instance $27 m90 *1 7.6,-69.6 NMOS
XM$27 \$6 INM MN3 VSS NMOS L=5u W=19.2u AS=28.8p AD=28.8p PS=31.2u PD=31.2u
* device instance $39 r0 *1 -59.2,-69.6 NMOS
XM$39 \$6 INP CP_PN3 VSS NMOS L=5u W=19.2u AS=28.8p AD=28.8p PS=31.2u PD=31.2u
.ENDS opamp_3zki_R06_2V5_1_half

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
