* Created by KLayout
*** My special header ***

* cell tr_1um_Qdai04
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT tr_1um_Qdai04 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $2 r0 *1 -288.4,532.9
X$2 P3 P4 P13 \$15 P12 P5 P2 P15 P1 P14 VSS 4bit_sram
* cell instance $3 r270 *1 4.3,-265.4
X$3 P6 P9 P10 P7 VSS frame_Tiny555
.ENDS tr_1um_Qdai04

* cell frame_Tiny555
* pin 
* pin 
* pin 
* pin 
* pin VSS
.SUBCKT frame_Tiny555 \$1 \$2 \$4 \$5 VSS
* cell instance $2 r0 *1 120,-445
X$2 \$4 \$1 \$2 \$5 VSS Tiny555
.ENDS frame_Tiny555

* cell 4bit_sram
* pin WORD
* pin BIT_2
* pin BIT_BAR_3
* pin VDD
* pin BIT_3
* pin BIT_BAR_2
* pin BIT_BAR_0
* pin BIT_BAR_1
* pin BIT_0
* pin BIT_1
* pin VSS
.SUBCKT 4bit_sram WORD BIT_2 BIT_BAR_3 VDD BIT_3 BIT_BAR_2 BIT_BAR_0 BIT_BAR_1
+ BIT_0 BIT_1 VSS
* cell instance $1 r0 *1 0,0
X$1 BIT_2 BIT_BAR_2 WORD VDD VSS 1bit_sram
* cell instance $2 r180 *1 113.2,57
X$2 BIT_0 BIT_BAR_0 WORD VDD VSS 1bit_sram
* cell instance $3 r180 *1 574.6,57
X$3 BIT_1 BIT_BAR_1 WORD VDD VSS 1bit_sram
* cell instance $4 r0 *1 461.4,0
X$4 BIT_3 BIT_BAR_3 WORD VDD VSS 1bit_sram
.ENDS 4bit_sram

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell Tiny555
* pin VDD
* pin RAMP
* pin OUT
* pin DISCH
* pin VSS
.SUBCKT Tiny555 VDD RAMP OUT DISCH VSS
* device instance $1 r0 *1 24,-360 PMOS
XM$1 \$2 \$3 VDD VDD PMOS L=1u W=180u AS=296p AD=296p PS=229.6u PD=229.6u
* device instance $10 r0 *1 32,-315 PMOS
XM$10 \$3 \$3 VDD VDD PMOS L=1u W=200u AS=352p AD=352p PS=275.2u PD=275.2u
* device instance $15 r0 *1 32,-267 PMOS
XM$15 \$4 VTH_H \$2 \$2 PMOS L=1u W=100u AS=176p AD=176p PS=137.6u PD=137.6u
* device instance $20 r0 *1 32,-222 PMOS
XM$20 \$6 RAMP \$2 \$2 PMOS L=1u W=100u AS=176p AD=176p PS=137.6u PD=137.6u
* device instance $25 r0 *1 24,-87 PMOS
XM$25 \$9 \$3 VDD VDD PMOS L=1u W=180u AS=296p AD=296p PS=229.6u PD=229.6u
* device instance $34 r0 *1 32,6 PMOS
XM$34 \$10 RAMP \$9 \$9 PMOS L=1u W=100u AS=176p AD=176p PS=137.6u PD=137.6u
* device instance $44 r0 *1 32,51 PMOS
XM$44 \$11 VTH_L \$9 \$9 PMOS L=1u W=100u AS=176p AD=176p PS=137.6u PD=137.6u
* device instance $49 r0 *1 40,321 PMOS
XM$49 \$18 OUT VDD VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $50 r0 *1 40,186 PMOS
XM$50 \$15 \$13 VDD VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $51 r0 *1 40,276 PMOS
XM$51 \$17 \$13 VDD VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $52 r0 *1 40,231 PMOS
XM$52 OUT \$16 \$15 VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $53 r0 *1 40,366 PMOS
XM$53 \$16 \$19 \$18 VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $54 r0 *1 40,411 PMOS
XM$54 \$16 \$17 \$18 VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $55 r0 *1 40,726 PMOS
XM$55 \$19 \$6 VDD VDD PMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $56 r0 *1 40,816 PMOS
XM$56 \$13 \$11 VDD VDD PMOS L=2u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $57 r0 *1 40,906 NMOS
XM$57 DISCH OUT VSS VSS NMOS L=2u W=4u AS=11.2p AD=11.2p PS=13.6u PD=13.6u
* device instance $58 r0 *1 32,861 NMOS
XM$58 \$13 \$11 VSS VSS NMOS L=1u W=50u AS=88p AD=88p PS=77.6u PD=77.6u
* device instance $63 r0 *1 40,771 NMOS
XM$63 \$19 \$6 VSS VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $64 r0 *1 40,681 NMOS
XM$64 \$20 \$17 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $65 r0 *1 40,591 NMOS
XM$65 \$16 \$19 \$20 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $66 r0 *1 40,636 NMOS
XM$66 \$16 OUT VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $67 r0 *1 32,96 NMOS
XM$67 \$10 \$10 VSS VSS NMOS L=1u W=50u AS=88p AD=88p PS=77.6u PD=77.6u
* device instance $72 r0 *1 32,-132 NMOS
XM$72 \$6 \$4 VSS VSS NMOS L=1u W=50u AS=88p AD=88p PS=77.6u PD=77.6u
* device instance $77 r0 *1 32,-177 NMOS
XM$77 \$4 \$4 VSS VSS NMOS L=1u W=50u AS=88p AD=88p PS=77.6u PD=77.6u
* device instance $82 r0 *1 32,141 NMOS
XM$82 \$11 \$10 VSS VSS NMOS L=1u W=50u AS=88p AD=88p PS=77.6u PD=77.6u
* device instance $87 r0 *1 40,501 NMOS
XM$87 OUT \$16 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $88 r0 *1 40,456 NMOS
XM$88 OUT \$13 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $89 r0 *1 40,546 NMOS
XM$89 \$17 \$13 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $90 r0 *1 110,-400 DN
D$90 VSS VTH_L DN A=12.96p P=14.4u
* device instance $91 r0 *1 110,-415 DN
D$91 VSS VTH_H DN A=12.96p P=14.4u
* device instance $92 r0 *1 90,1080 F_RR
XR$92 VSS VTH_L VDD F_RR R=12.5 L=50u W=4u A=200p P=108u m=1
* device instance $93 r0 *1 90,1020 F_RR
XR$93 VTH_L VTH_H VDD F_RR R=12.5 L=50u W=4u A=200p P=108u m=1
* device instance $94 r0 *1 90,1220 F_RR
XR$94 VSS \$3 VDD F_RR R=25 L=100u W=4u A=400p P=208u m=1
* device instance $95 r0 *1 90,960 F_RR
XR$95 VTH_H VDD VDD F_RR R=12.5 L=50u W=4u A=200p P=108u m=1
.ENDS Tiny555

* cell 1bit_sram
* pin BIT_L
* pin BIT_L_BAR
* pin WORD_L
* pin VDD
* pin VSS
.SUBCKT 1bit_sram BIT_L BIT_L_BAR WORD_L VDD VSS
* cell instance $9 m90 *1 208,-77.3
X$9 \$6 \$3 VDD INVERTER
* cell instance $10 r0 *1 -94.8,-77.3
X$10 \$3 \$6 VDD INVERTER
* device instance $1 r0 *1 -161.9,-47.9 NMOS
XM$1 \$3 WORD_L BIT_L VSS NMOS L=4.2u W=480u AS=782.4p AD=720p PS=560.6u PD=510u
* device instance $11 r0 *1 -89.9,-47.9 NMOS
XM$11 \$3 \$6 VSS VSS NMOS L=4.2u W=960u AS=1440p AD=1502.4p PS=1020u PD=1070.6u
* device instance $31 r0 *1 66.3,-47.9 NMOS
XM$31 \$6 \$3 VSS VSS NMOS L=4.2u W=960u AS=1502.4p AD=1440p PS=1070.6u PD=1020u
* device instance $51 r0 *1 210.3,-47.9 NMOS
XM$51 \$6 WORD_L BIT_L_BAR VSS NMOS L=4.2u W=480u AS=720p AD=782.4p PS=510u
+ PD=560.6u
.ENDS 1bit_sram

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell INVERTER
* pin 
* pin 
* pin 
.SUBCKT INVERTER \$1 \$2 \$4
* device instance $1 r0 *1 55.3,83.4 PMOS
XM$1 \$4 \$2 \$1 \$4 PMOS L=4.2u W=288u AS=463.2p AD=463.2p PS=350.6u PD=350.6u
.ENDS INVERTER

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
